US06552022B1
4′-Trifluoromethyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzoyl)-piperazin-1-yl]-phenyl]-amide
To a stirred solution of 4′-trifluoromethyl-biphenyl-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide (0.318 g) in CH2Cl2 (15 mL) containing Et3N (79 mg) was added dropwise 3-cyano-benzoyl chloride (0.129 g) and the mixture was stirred at room temperature for 1 hour. The solution was then washed with water, with brine, dried over Na2SO4, filtered and evaporated. The residue was then purified by flash chromatography eluting with CH2Cl2/AcOEt (80/20) and the solid obtained was recrystallized from AcOEt to give the title compound (0.29 g) as white crystals.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide | 0.318 g | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C24H22F3N3O
reactant | Et3N | 79 mg | CCN(CC)CC | C6H15N
reactant | 3-cyano-benzoyl chloride | 0.129 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4′-Trifluoromethyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzoyl)-piperazin-1-yl]-phenyl]-amide | 0.29 g | C(#N)C=1C=C(C(=O)N2CCN(CC2)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=C(C=C2)C(F)(F)F)C=CC1 | C32H25F3N4O2
